US08466169B2
24c) 1-[3-Ethoxy-5-(pentafluorosulfanyl)phenyl]ethanone
3-Ethoxy-N-methoxy-N-methyl-5-(pentafluorosulfanyl)benzamide (2.6 g) was dissolved in THF (60 ml). After cooling to 0° C., methylmagnesium bromide (6.46 ml, 3 M in ether) was added dropwise. Thereafter, the cooling bath was removed and stirring was continued at RT. After 1 h, the mixture was acidified with 1N hydrochloric acid, admixed with water and extracted by shaking twice with EA. The EA phases were dried over magnesium sulfate, filtered and concentrated. 2.25 g of the title compound were obtained.

reactant | 3-Ethoxy-N-methoxy-N-methyl-5-(pentafluorosulfanyl)benzamide | 2.6 g | C(C)OC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C11H14F5NO3S
reactant | methylmagnesium bromide | 3 M, 6.46 ml | C[Mg]Br
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-[3-Ethoxy-5-(pentafluorosulfanyl)phenyl]ethanone | 2.25 g | C(C)OC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | C10H11F5O2S
